US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-naphthamide
The titled compound was prepared following the procedure K using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and 2-naphthoyl chloride as a colorless oil (93%). M+ (ESI): 594.4. HPLC, Rt: 5.96 min (Purity: 93.2%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-naphthamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC3=CC=CC=C3C=C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C40H35NO4
